US06518257B1
(i) Production of 6-bromo-N-isopropyl-2-pyridinecarboxamide
By the reaction in the same manner as in Example 55-(i) using 6-bromopicolinic acid (3.04 g), isopropylamine (5 ml), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (3.44 g) and 1-hydroxybenzotriazole (2.70 g), the title compound (3.10 g) was obtained as a colorless oil.

reactant | 6-bromopicolinic acid | 3.04 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | isopropylamine | 5 ml | C(C)(C)N | C3H9N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 3.44 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 2.70 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
product | 6-bromo-N-isopropyl-2-pyridinecarboxamide | 3.10 g | BrC1=CC=CC(=N1)C(=O)NC(C)C | C9H11BrN2O
